US05583135
A mixture of 2,3-dihydro-7-hydroxy-9-methoxy-6-(N-methyl-N-phenylcarbamoyl)-5-oxo-5H-pyrido[1,2,3-de]-1,4-benzothiazine (1 g) and m-chloroperoxybenzoic acid (0.5 g) in dichloromethane (50 ml) was stirred at 5° C. for 1 hour. The insoluble material was filtered and the filtrate was concentrated in vacuo. The residue (1.5 g) was recrystallized from acetone to give pale yellow crystals of 2,3-dihydro-7-hydroxy-9-methoxy-6-(N-methyl-N-phenylcarbamoyl)-5-oxo-5H-pyrido[1,2,3-de]-1,4benzothiazine 1-oxide (0.86 g).

reactant | 2,3-dihydro-7-hydroxy-9-methoxy-6-(N-methyl-N-phenylcarbamoyl)-5-oxo-5H-pyrido[1,2,3-de]-1,4-benzothiazine | 1 g | OC1=C(C(N2CCSC=3C2=C1C=C(C3)OC)=O)C(N(C3=CC=CC=C3)C)=O | C20H18N2O4S
reactant | m-chloroperoxybenzoic acid | 0.5 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2,3-dihydro-7-hydroxy-9-methoxy-6-(N-methyl-N-phenylcarbamoyl)-5-oxo-5H-pyrido[1,2,3-de]-1,4benzothiazine 1-oxide | 0.86 g | OC1=C(C(N2CCS(C=3C2=C1C=C(C3)OC)=O)=O)C(N(C3=CC=CC=C3)C)=O | C20H18N2O5S
